US08461175B2
A microwave tube of maximum capacity 20 ml, equipped with a magnetic stirrer, is charged with 300 mg of 5-(2,6-difluorophenyl)-3-{[1-(methylsulphonyl)piperidin-4-yl]amino}-1-([2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazolo[4,3-c]isoquinoline-7-carbonitrile in 12 ml of 5N hydrochloric acid. The reaction mixture is microwave-heated at 100° C. for 5 min and then poured into 20 ml of water, brought to a pH of 7 by addition of 9.3N sodium hydroxide solution, and extracted with three times 20 ml of AcOEt. The combined organic phases are dried over MgSO4, filtered and concentrated under RP. The product is purified by flash chromatography on silica gel (15-40 μm), eluting with a mixture of DCM and AcOEt (50/50 by vol.), to give 130 mg of 5-(2,6-difluorophenyl)-3-{[1-(methylsulphonyl)piperidin-4-yl]amino}-1H-pyrazolo[4,3-c]isoquinoline-7-carbonitrile (yellow solid). 1H NMR (400 MHz, DMSO-d6) 1.67 (m, 2 H) 2.11 (m, 2 H) 2.87 (s, 3 H) 2.90 (m, 2 H) 3.56 (m, 2 H) 3.80 (m, 1 H) 6.20 (broad d, J=7.7 Hz, 1 H) 7.34 (m, 2 H) 7.70 (m, 1 H) 8.18 (broad s, 1 H) 8.28 (broad d, J=8.6 Hz, 1 H) 8.56 (d, J=8.6 Hz, 1 H) 13.07 (s, 1H) LC-MS-DAD-ELSD: 483 (+)=(M+H)(+).

reactant | 5-(2,6-difluorophenyl)-3-{[1-(methylsulphonyl)piperidin-4-yl]amino}-1-([2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazolo[4,3-c]isoquinoline-7-carbonitrile | 300 mg | FC1=C(C(=CC=C1)F)C1=NC2=C(C=3C=CC(=CC13)C#N)N(N=C2NC2CCN(CC2)S(=O)(=O)C)COCC[Si](C)(C)C | C29H34F2N6O3SSi
reactant | water | 20 ml | O | H2O
reactant | sodium hydroxide | 9.3N | [OH-].[Na+]
solvent | hydrochloric acid | 5N, 12 ml | Cl | ClH
product | 5-(2,6-difluorophenyl)-3-{[1-(methylsulphonyl)piperidin-4-yl]amino}-1H-pyrazolo[4,3-c]isoquinoline-7-carbonitrile | 130 mg | FC1=C(C(=CC=C1)F)C1=NC2=C(C=3C=CC(=CC13)C#N)NN=C2NC2CCN(CC2)S(=O)(=O)C | C23H20F2N6O2S
